US04197296
11α-Amino-17,17-ethylenedioxy-5α-androstan-3α-ol
A solution of 17,17-ethylenedioxy-11-oximino-5α-androstan-3α-ol (0.700 g) in propanol (20 ml) was refluxed under nitrogen. To this solution were added small pieces of sodium (total 0.8 g) over a period of 80 mins. The reaction mixture was evaporated to low volume then diluted with water. No precipitation occurred and the solution was partitioned between ethyl acetate and water. The ethyl acetate solution was washed with water (×4), dried (magnesium sulphate) and evaporated to a solid (0.575 g). Crystallisation from ethyl acetate/petrol gave colourless crystals of the title compound (0.396 g), m.p. 170°-171°, [α]D -36°.

reactant | 17,17-ethylenedioxy-11-oximino-5α-androstan-3α-ol | 0.700 g | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]2C(C3)=NO)O)OC1 | C21H33NO4
reactant | sodium | 0.8 g | [Na] | Na
solvent | propanol | 20 ml | C(CC)O | C3H8O
product | 11α-Amino-17,17-ethylenedioxy-5α-androstan-3α-ol | 0.396 g | N[C@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CCC3([C@@]2(C)C1)OCCO3)O)C | C21H35NO3
